US04269834
To a solution of 10.5 g (0.23 mol) of dimethylamine in 80 ml of tetrahydrofuran, 100 ml of 15% (w/v) n-butyl lithium in hexane (0.23 mol) were added under a nitrogen atmosphere. After 30 minutes, 18 g (0.1 mol) of hexamethylphosphoric triamide (HMPTA) were added, after which the mixture was cooled to -78° C. To the light-yellow solution obtained, 19.6 g (0.1 mol) of 4-bromo-2-methylbenzonitrile in 60 ml of anhydrous tetrahydrofuran were added in the course of 10 minutes, after which the deep red solution was stirred for another 15 minutes. Subsequently 15.7 g (0.15 mol) of 2-cyanopyridine in 60 ml of anhydrous tetrahydrofuran was added dropwise in the course of 10 minutes. The reaction mixture was heated to 60° C. for one hour and it was then hydrolysed with 400 ml of 10% (w/v) hydrochloric acid. The yellow precipitate obtained was filtered off, the filtrate was washed with diethyl ether, neutralised with sodium hydroxide and extracted with chloroform. The solvent was distilled off from the extract and the residue was sublimed. The product obtained was converted into the hydrochloride, as described in Example VII, and the hydrochloride was combined with the yellow precipitate and crystallised from ethanol. 1-Amino-6-bromo-3-(2-pyridyl)isoquinoline hydrochloride was obtained, melting point 257.5° C.

reactant | dimethylamine | 0.23 mol, 10.5 g | CNC | C2H7N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.23 mol | CCCCCC | C6H14
reactant | hexamethylphosphoric triamide | 0.1 mol, 18 g | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | 4-bromo-2-methylbenzonitrile | 0.1 mol, 19.6 g | BrC1=CC(=C(C#N)C=C1)C | C8H6BrN
reactant | 2-cyanopyridine | 0.15 mol, 15.7 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 1-Amino-6-bromo-3-(2-pyridyl)isoquinoline hydrochloride | Cl.NC1=NC(=CC2=CC(=CC=C12)Br)C1=NC=CC=C1 | InChI=1S/C14H10BrN3.ClH/c15-10-4-5-11-9(7-10)8-13(18-14(11)16)12-3-1-2-6-17-12;/h1-8H,(H2,16,18);1H
